US06180625B2
5-Amino-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one (18).
5-Nitro-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one (0.4 g) was dissolved in acetic acid (30 mL) under N2, PtO2 (20 mg) was added and the mixture was hydrogenated with H2 gas. Reaction time 1 day. The reaction mixture was filtered through Hyflo®, which was rinsed afterwards with ethyl acetate. The combined organic phases were evaporated to dryness and subsequently treated three times with toluene followed by evaporation. The resulting mixture was dissolved in THF and precipitated with hexane giving a crude product which was purified on a silicagel column using dichloromethane as eluent. One fraction was collected (51 mg), identified as 5-amino-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one, LC-MS 275 M+1, ELS purity 100%, mp. 197 C.

reactant | 5-Nitro-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one | 0.4 g | [N+](=O)([O-])C1=CC=CC=2N=C(OC(C21)=O)C2=C(C=CC=C2F)F | C14H6F2N2O4
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 20 mg | O=[Pt]=O
product | 5-Amino-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one | NC1=CC=CC=2N=C(OC(C21)=O)C2=C(C=CC=C2F)F | C14H8F2N2O2
